US08420695B2
Step 2: 2-(4-Allylphenyl)propan-2-ol
A solution of methyl 4-allylbenzoate (5.66 g, 32.1 mmol) in tetrahydrofuran (37 mL) at 0° C. under an argon atmosphere was charged with a solution of methyl magnesium bromide in diethyl ether (3 M, 26.8 mL, 80 mmol). The reaction mixture was allowed to warm to room temperature and then it was cooled to 0° C. after an additional four hours, at which time a saturated aqueous ammonium chloride solution (50 mL) was added slowly followed by diethyl ether (100 mL). The layers were separated, and the aqueous layer was extracted with diethyl ether (2×50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated to afford the title compound.

reactant | methyl 4-allylbenzoate | 32.1 mmol, 5.66 g | C(C=C)C1=CC=C(C(=O)OC)C=C1 | C11H12O2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 80 mmol, 3 M, 26.8 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
product | 2-(4-Allylphenyl)propan-2-ol | C(C=C)C1=CC=C(C=C1)C(C)(C)O | C12H16O
